US07799782B2
Step B: (S)-2-{[5-(2,4-Difluorophenoxy)-1-isobutyl-1H-indazole-6-carbonyl]-amino}-4-dimethylaminobutyric acid methyl ester:
To a solution of 5-(2,4-difluorophenoxy)-1-isobutyl-1H-indazole-6-carboxylic acid 2,5-dioxopyrrolidin-1-yl ester (32.0 g, 72.2 mmol) and 2-amino-4-dimethylaminobutyric acid methyl ester dihydrochloride (19.35 g, 83.0 mmol) in dichloromethane was added triethylamine (35 mL, 253 mmol) and the mixture stirred at room temperature for 4 hours. The reaction mixture was concentrated under reduced pressure and diluted with dichloromethane (400 mL). The solution was washed with saturated NH4Cl (2×200 mL), saturated NaHCO3 (2×200 mL) and brine (200 mL). The organics were dried over MgSO4 and concentrated under reduced pressure to afford the crude product.

reactant | 5-(2,4-difluorophenoxy)-1-isobutyl-1H-indazole-6-carboxylic acid 2,5-dioxopyrrolidin-1-yl ester | 72.2 mmol, 32.0 g | O=C1N(C(CC1)=O)OC(=O)C1=C(C=C2C=NN(C2=C1)CC(C)C)OC1=C(C=C(C=C1)F)F | C22H19F2N3O5
reactant | 2-amino-4-dimethylaminobutyric acid methyl ester dihydrochloride | 83.0 mmol, 19.35 g | Cl.Cl.COC(C(CCN(C)C)N)=O
reactant | triethylamine | 253 mmol, 35 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | (S)-2-{[5-(2,4-Difluorophenoxy)-1-isobutyl-1H-indazole-6-carbonyl]-amino}-4-dimethylaminobutyric acid methyl ester | COC([C@H](CCN(C)C)NC(=O)C1=C(C=C2C=NN(C2=C1)CC(C)C)OC1=C(C=C(C=C1)F)F)=O | C25H30F2N4O4
